US08809326B2
To a solution of 2.62 g (12.3 mmol) of 1,7-dichloro-isoquinolin-6-ylamine in DMF (130 mL) was added 5.5 g (15.5 mmol) of Selectfluor® as a solid in one portion. The mixture was stirred at room temperature for 15 h. The mixture was poured over ice and stirred until all of the ice had melted during which time a solid precipitated from solution. The brown solid was collected by filtration, washed with water and dried on the filter pad to provide 1.0 g (60% by 1H-NMR, 21%) of 1,7-dichloro-5-fluoro-isoquinolin-6-ylamine. MS calc. for C9H5Cl2FN2 [M]+: 231.05. Found: 231.68.

reactant | 1,7-dichloro-isoquinolin-6-ylamine | 12.3 mmol, 2.62 g | ClC1=NC=CC2=CC(=C(C=C12)Cl)N | C9H6Cl2N2
reactant | Selectfluor | 15.5 mmol, 5.5 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
product | 1,7-dichloro-5-fluoro-isoquinolin-6-ylamine | 1.0 g, 60% | ClC1=NC=CC2=C(C(=C(C=C12)Cl)N)F | C9H5Cl2FN2
